Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Cephalosporins / Vicodin / Percocet / naproxen / 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
right cavovarus foot
 
Major Surgical or Invasive Procedure:
right foot gastrocnemius strayer release, Bridle tendon transfer

 
History of Present Illness:
___ w/ crush injury to foot now c/b cavovarus foot deformity 
 
Past Medical History:
DVT
CRPS
cavovarus foot
 
Social History:
___
Family History:
n/a
 
Physical Exam:
right lower extremity
dressing/splint clean dry and intact
___ motor, intact sensation
WWP toes
 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for right 
foot gastrocnemius strayer release, Bridle tendon transfer, 
which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications were continued throughout this 
hospitalization. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
NWB in the right lower extremity, and will be discharged on 
lovenox for DVT prophylaxis given history of DVT. The patient 
will follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Topiramate (Topamax) 100 mg PO BID 
2. Cyclobenzaprine 10 mg PO TID:PRN spasm 
3. DULoxetine 60 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Baclofen 20 mg PO BID  
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
4.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL ___aily Disp #*42 Syringe 
Refills:*0 
5.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *hydromorphone 4 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*42 Tablet Refills:*0 
6.  Cyclobenzaprine 10 mg PO TID:PRN spasm  
7.  DULoxetine 60 mg PO DAILY  
8.  Topiramate (Topamax) 100 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right cavovarus foot

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Thank you for allowing me to assist in your care. It is a 
privilege to be able to take care of you. Should you have any 
questions about your post-operative care feel free to call my 
office at ___ during business hours and either myself 
or ___, PA-C will address any questions or 
concerns you may have. If this is an urgent matter at night or 
on weekends please call ___ and ask the page operator 
to page the covering ___ call orthopaedic physician. 

Prescription refills or changes cannot be addressed after normal 
business hours or on weekends.

PAIN CONTROL:

-You may or may not have had a nerve block depending on the 
type of surgery. This will likely wear off later in the evening 
and it is normal to have increased pain when the nerve block 
wears off. Please take your prescribed pain medications as 
directed with food prior to the nerve block wearing off. 
-Stay ahead of the pain!
-Narcotic pain medications can cause constipation. Please take 
a stool softener while taking these and drink plenty of water.
-Please plan ahead! If you are running out of your medication 
prior to your follow-up appointment please call during business 
hours with a ___ day notice. Prescription refills or changes 
cannot be addressed after normal business hours or on weekends.

NON-NARCOTIC PAIN CONTROL

-Multi-modal pain control is critical. If you are able to take 
Tylenol (acetaminophen) I would strongly encourage you to do so 
according to the instructions on the bottle. Do not take more 
than 4,000 mg of Tylenol in 24 hours.
-NSAIDs (Advil, Motrin, Aleve, etc) are also excellent for pain 
control post-operatively. Do not take if you have had a bone 
fusion surgery, but for soft tissue procedures or most fracture 
surgeries these medications are acceptable unless you are unable 
to take for other medical reasons or unless we have specifically 
instructed you against it.
-Elevation with the operative site above the level of the heart 
will decrease swelling and improve pain control
-Ice or cold therapy may also be helpful. Do not keep ice or 
cold directly on the skin and do not use for more than ___ 
minutes to decrease risk of skin injury from the cold. Do NOT 
use ice when the block is still in effect as you will not know 
if you are injuring yourself. You may place the ice pack behind 
your knee if you have a bulky dressing on your foot. 
-Every little bit helps. The faster you can come off the 
narcotic medication the better. Most of my patients do not need 
narcotics after the first post-operative visit!

ACTIVITY:

-You will likely have swelling after surgery. Please keep the 
foot elevated on ___ pillows at all times possible. You can 
apply a dry, covered, ice-bag on top of your dressing or behind 
your knee for 20 minutes at a time as often as you like.
-Unless instructed otherwise you should not put any weight down 
on your operated extremity until you come back for your first 
postoperative visit.

CARE FOR YOUR DRESSING:

-You should not remove your dressing. I will do so when I see 
you for your first post-operative visit.
-It is not unusual to have a little bloody staining through 
your dressing. However please call the office for any concerns.
-Keep your dressing clean and dry. You will have to cover it 
when you bath or shower. If it gets wet please call the office 
immediately.

PREVENTION OF BLOOD CLOTS:

-You have been instructed to take medication in order to help 
prevent blood clots after surgery. Please take an lovenox 40mg 
every day
DRIVING:

-My recommendation is that you should not drive if you:
(1)are still taking narcotic pain medications
(2)have any type of immobilization on your right side
(3)are unable to fully bear weight without pain on your right 
side
(the above also apply to the left side if you have a manual 
transmission (“stick shift”)

-There is no substitute for common sense and safety. If you do 
not feel safe driving, do not do so.  Practice in an empty 
parking lot prior to driving on the road.  
-“Driving is easy. Stopping in an emergency is hard”

WHEN TO CALL:

-Please call the office if you have any questions or concerns 
regarding your post-operative care. We need to know if things 
are not going well.
-Please make sure you call the office or page the ___ call 
orthopaedic physician immediately if you are having any of the 
following problems:
1.Fever greater than 101.4
2.Increasing pain not controlled on pain medications
3.Increasing bloody staining on the dressing
4.Chest pain, difficulty breathing, nausea or vomiting
5.Significant asymmetric leg swelling
6.Cold toes, toes that are not normal color (pink) 
7.Any other concerning symptoms
 
Followup Instructions:
___